US09359340B2
Tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(cyclopropylmethyl)carbamate (0.0674 g, 0.1182 mmol) was dissolved in dioxane (0.5 mL) and treated with HCl in dioxane (0.7389 ml, 2.956 mmol) (4M). The reaction was stirred at ambient temperature for 48 hours. The reaction mixture was concentrated in vacuo. The residue was redissolved in MeOH and re-concentrated three times. This residue was resuspended in MeOH (0.2+0.1 mL) and added dropwise to a stirred flask of Et2O (10 mL). After stirring for 30 minutes, the solids were filtered, washed with Et2O, and dried under a blanket of nitrogen to give (S)-2-(4-chlorophenyl)-3-(cyclopropylmethylamino)-1-(4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one as a white solid (60.2 mg, 94%.) LCMS (APCI+) [M+H]+ 470.2.

reactant | Tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(cyclopropylmethyl)carbamate | 0.1182 mmol, 0.0674 g | ClC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)CC1CC1)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@H](C[C@H]2C)O | C30H40ClN5O4
reactant | HCl | Cl | ClH
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.956 mmol, 4M, 0.7389 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(4-chlorophenyl)-3-(cyclopropylmethylamino)-1-(4-((5R,7S)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one | ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@H](C[C@H]2C)O)CNCC2CC2 | C25H32ClN5O2
